US07723391B2
Potassium carbonate (467 mg) was added to a solution of 2,2-dimethyl-3-phenyl-cyclopropanecarbonitrile (3/1 cis/trans mixture, 4 g, 23.4 mmol) in DMSO (7 mL). The resulting mixture was cooled to 0° C. and an aqueous solution of hydrogen peroxide (30%, 2.8 mL) was added. The reaction mixture was allowed to warm up to room temperature and was stirred overnight. A second aliquot of aqueous solution of hydrogen peroxide (30%, 2.8 mL) was added and the resulting mixture was stirred for 24 hours. A third aliquot of aqueous solution of hydrogen peroxide (30%, 3.0 mL) was added and the resulting mixture was stirred for 3 days. The reaction mixture was poured into brine and extracted with ethyl ether. The organic layer was separated, dried over Na2SO4, filtered, and evaporated under reduced pressure. The crude residue was purified by flash chromatography (0% to 65% of EtOAc in hexane) to give 2.66 of 2,2-dimethyl-3-phenyl-cyclopropanecarboxylic acid amide (2/1 trans/cis mixture), together with 1.125 g of starting material.

reactant | Potassium carbonate | 467 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-dimethyl-3-phenyl-cyclopropanecarbonitrile | 23.4 mmol, 4 g | CC1(C(C1C1=CC=CC=C1)C#N)C | C12H13N
reactant | hydrogen peroxide | 2.8 mL | OO | H2O2
reactant | hydrogen peroxide | 2.8 mL | OO | H2O2
reactant | hydrogen peroxide | 3.0 mL | OO | H2O2
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 2,2-dimethyl-3-phenyl-cyclopropanecarboxylic acid amide | CC1(C(C1C1=CC=CC=C1)C(=O)N)C | C12H15NO
